US07745484B2
Step 2: tert-Butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-hydroxybutan-2-ylcarbamate
To a 500 mL RBF containing (S)—N-((2S,3S)-3,4-bis(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)butan-2-yl)-2-methylpropane-2-sulfinamide (2.600 g, 4.9 mmol) was added EtOH (25 ml) and the mixture was allowed to stir at 0° C. for 15 min. At this time, HCl (4N in dioxane) (3.7 ml, 15 mmol) was added via syringe. The reaction was monitored at 1 h by LC/MS 76877-2-1 and tlc (100% EtOAC amino bis TBS; Rf=0.80 UV active stains orange to anisaldehyde amine with primary alcohol deprotected Rf=0.45 to 0.1 streak, UV active and stains white to anisaldehyde). The reaction was allowed to stir for 3 h at 0° C. and then TEA (4.1 ml, 29 mmol) was added fast dropwise and a white solid formed. An LC/Ms was obtained to confirm that the secondary TBS ether was not removed during the TEA neutralization process. Approximately 15 mL of EtOH were removed by rotary evaporator and then DCM (10 mL) was added and the solid went into solution. At this time, (BOC)2O (2.3 ml, 9.8 mmol) was added in one portion and the reaction was allowed to stir for 1 h and then poured into diethyl ether (300 ml). The organic layer was washed with ammonium chloride (3×150 mL, sat) and brine. The organic layer was dried with magnesium sulfate, filtered and concentrated to give a colorless crude oil. The desired product has an Rf=0.40 in 35% EtOAc in hexanes, UV active, stains white to anisaldehyde and purple to moly stain. The crude oil was purified on a 120 g Isco column (10 to 35% EtOAc in hexanes) to give the title compound as a colorless oil.

reactant | (S)—N-((2S,3S)-3,4-bis(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)butan-2-yl)-2-methylpropane-2-sulfinamide | 4.9 mmol, 2.600 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC=C1)F)N[S@@](=O)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C26H50FNO3SSi2
reactant | HCl | 15 mmol, 4N, 3.7 ml | Cl | ClH
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | (BOC)2O | 9.8 mmol, 2.3 ml | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | EtOH | 25 ml | CCO | C2H6O
product | tert-Butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-hydroxybutan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC=C1)F)NC(OC(C)(C)C)=O)CO | C21H36FNO4Si
